US07723347B2
N-(2-Fluoro-4-nitrophenyl)-N-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine
A solution of 71 mg (0.17 mmol) of N-(2-fluoro-4-nitrophenyl)-N-methyl-1-{[2-(trimethylsilyl)-ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine in 2 ml of dichloromethane and 1.0 ml (13.0 mmol) of trifluoroacetic acid is stirred at RT for 3 h. The reaction mixture is concentrated under reduced pressure, the residue is taken up in 2 ml of THF, 1.02 ml (1.02 mmol) of aqueous 1 M lithium hydroxide solution are added and the mixture is stirred at RT overnight. To bring the reaction to completion, a further 0.5 ml (0.5 mmol) of lithium hydroxide solution is added, and the mixture is stirred for another night. Saturated sodium bicarbonate solution is added to the mixture, and the mixture is extracted twice with ethyl acetate. The combined organic phases are dried over magnesium sulfate, the solvent is removed under reduced pressure and the residue is purified by preparative HPLC.

reactant | N-(2-fluoro-4-nitrophenyl)-N-methyl-1-{[2-(trimethylsilyl)-ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | 0.17 mmol, 71 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])N(C=1C2=C(N=CC1)N(C=C2)COCC[Si](C)(C)C)C | C20H25FN4O3Si
reactant | trifluoroacetic acid | 13.0 mmol, 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | lithium hydroxide | 0.5 mmol, 0.5 ml | [OH-].[Li+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(2-Fluoro-4-nitrophenyl)-N-methyl-1H-pyrrolo[2,3-b]pyridine-4-amine | FC1=C(C=CC(=C1)[N+](=O)[O-])N(C=1C2=C(N=CC1)NC=C2)C | C14H11FN4O2
